US08084484B2
e) 2-(2-Thioxo-2,3-dihydro-benzothiazol-6-yl)-propionic acid ethyl ester
To a stirred solution of 2-(4-Amino-3-bromo-phenyl)-propionic acid ethyl ester (1.58 g) in DMF was added potassium ethylxanthate (1.86 g) at room temperature. After stirred with reflux for 14 h, the reaction mixture was cooled to room temperature and diluted with EtOAc. The organic layer was washed with water, brine, dried over magnesium sulfate and concentrated in vacuo. The resulting residue was chromatographed on silica gel (n-Hex:EtOAc=6:1 to 4:1) to afford the product as yellow oil. (595 mg, 38.3%)

reactant | 2-(4-Amino-3-bromo-phenyl)-propionic acid ethyl ester | 1.58 g | C(C)OC(C(C)C1=CC(=C(C=C1)N)Br)=O | C11H14BrNO2
reactant | potassium ethylxanthate | 1.86 g | C(C)OC(=S)[S-].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(2-Thioxo-2,3-dihydro-benzothiazol-6-yl)-propionic acid ethyl ester | C(C)OC(C(C)C1=CC2=C(NC(S2)=S)C=C1)=O | C12H13NO2S2
